US05623081
2,5-Dioxo-4-oxazolidinepentanoic acid
A suspension of 1.752 g of DL-2-aminopimelic acid, 55 ml of tetrahydrofuran and 16 ml of 1.93M phosgene in toluene is heated, in an oil bath, at 50° C. for 1 hour. Argon is bubbled through the reaction to remove the excess phosgene and the solvents are removed under house vacuum. The resulting oil is dissolved in 14 ml of ethyl alcohol, diluted with 14 ml of petroleum ether and the solution stored overnight at room temperature. The formed crystals are collected and dried to give 1.6 g of the desired product.

reactant | DL-2-aminopimelic acid | 1.752 g | C(CCC(=O)O)CC(C(=O)O)N | C7H13NO4
reactant | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
reactant | phosgene | 1.93M, 16 ml | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5-Dioxo-4-oxazolidinepentanoic acid | 1.6 g | O=C1OC(C(N1)CCCCC(=O)O)=O | C8H11NO5
